US06245763B1
1. 3-Benzylsulfonylamino-1-(tert-butoxycarbonylmethyl)-2-pyridinone
To a solution of 3-amino-1-(tert-butoxycarbonylmethyl)-2-pyridinone (1.12 g, 5.0 mmol), and N-methylmorpholine (1.5 mL, 10.0 mmol) in methylene chloride (40 mL) was added α-toluenesulfonyl chloride (950 mg, 5.0 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 1 h. Additional methylene chloride (50 mL) was added. The resulting solution was washed with saturated NaHCO3 (2×50 mL), 10% citric acid (3×50 mL) and brine (50 mL), and dried over Na2SO4 and filtered and the filtrate was concentrated to give a solid which was washed with ethyl acetate/hexane (1:2, 60 mL) to give the title compound as a white solid (1.8 g, 96%). 1H-NMR (300 MHz, CDCl3) δ7.42 (br s, 1H), 7.36 (d, J=7.3 Hz, 1H), 7.31 (m, 5H), 6.92 (d, J=7.0 Hz, 1H), 6.14 (t, J=7.2 Hz, 1H), 4.58 (s, 2H), 4.34 (s, 2H), 1.51 (s, 9H).

reactant | 3-amino-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 5.0 mmol, 1.12 g | NC=1C(N(C=CC1)CC(=O)OC(C)(C)C)=O | C11H16N2O3
reactant | N-methylmorpholine | 10.0 mmol, 1.5 mL | CN1CCOCC1 | C5H11NO
reactant | α-toluenesulfonyl chloride | 5.0 mmol, 950 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Benzylsulfonylamino-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 1.8 g, 96% | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C=CC1)CC(=O)OC(C)(C)C)=O | C18H22N2O5S
